US07351833B2
Benzyl 2,2-dimethoxyethylcarbamate
N-(Benzyloxycarbonyloxy)succinimide (74.5 Kg) was charged to a 200-gallon reactor, followed by toluene (235.1 Kg). The mixture was stirred for 15 minutes and cooled to 5° C. A solution of aminoacetaldehyde dimethylacetal (30 Kg) and triethylamine (28.9 Kg) in toluene (26.1 Kg) was charged slowly to the reactor over a 1 hour period while maintaining the internal temperature below 30° C. The mixture was stirred at 20° C. until there remained no more than 1.0% CbzOSu, as determined by HPLC. Water (150 Kg) was charged to the reactor and the contents of the reactor were stirred for 15 minutes. The layers were separated and the organic layer was washed with 5% ammonium chloride (2×151 Kg) followed by a water wash (150 Kg). The product was taken onto the next step as a solution, without isolation.

reactant | N-(Benzyloxycarbonyloxy)succinimide | 74.5 Kg | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | aminoacetaldehyde dimethylacetal | 30 Kg | COC(CN)OC | C4H11NO2
reactant | triethylamine | 28.9 Kg | C(C)N(CC)CC | C6H15N
reactant | CbzOSu | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
reactant | Water | 150 Kg | O | H2O
solvent | toluene | 26.1 Kg | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 235.1 Kg | C1(=CC=CC=C1)C | C7H8
product | Benzyl 2,2-dimethoxyethylcarbamate | COC(CNC(OCC1=CC=CC=C1)=O)OC | C12H17NO4
